US05686459
592 mg (3 mmol) of O-benzylserine, 393 mg (3 mmol) of 4-cyano-benzaldehyde and 697 mg (3 mmol) of N-(4-nitro-benzyl)-maleimide in 25 ml of DMF were heated at 110° C. for 5 hours. After cooling the solvent was removed in a vacuum. The crude product was filtered over silica gel with hexane/ethyl acetate and the solvent was removed. Thereafter, the residue was dissolved in a methanol/chloroform (1:5) mixture and dry hydrogen chloride was introduced while cooling with ice. After standing at 4° C. for 14 hours the solution was treated with ether and the colourless precipitate was filtered off and thereafter boiled at reflux for 3 hours with a methanol solution saturated with ammonia. The solvent was removed in a vacuum. The thus-obtained crude product was treated with 3 ml of 1N hydrochloric acid and again evaporated. The yellowish residue was separated over a RP-18 chromatography column with a water/methanol gradient. 67 mg of (1RS,3RS,3aSR,6aRS)-4-[3-(benzyloxy-methyl)-5-(4-nitro-benzyl)-4,6-dioxo-octahydro-pyrrolo[3,4-c]pyrrol-1-yl]-benzimidamide hydrochloride were isolated as a yellowish powder. ISP-MS: 514 ([M+H]+, 100).

reactant | O-benzylserine | 3 mmol, 592 mg | C(C1=CC=CC=C1)OC[C@H](N)C(=O)O | C10H13NO3
reactant | 4-cyano-benzaldehyde | 3 mmol, 393 mg | C(#N)C1=CC=C(C=O)C=C1 | C8H5NO
reactant | N-(4-nitro-benzyl)-maleimide | 3 mmol, 697 mg | [N+](=O)([O-])C1=CC=C(CN2C(C=CC2=O)=O)C=C1 | C11H8N2O4
reactant | hydrochloric acid | 1N, 3 ml | Cl | ClH
reactant | DMF | 25 ml | CN(C)C=O | C3H7NO
product | (1RS,3RS,3aSR,6aRS)-4-[3-(benzyloxy-methyl)-5-(4-nitro-benzyl)-4,6-dioxo-octahydro-pyrrolo[3,4-c]pyrrol-1-yl]-benzimidamide hydrochloride | 67 mg | Cl.C(C1=CC=CC=C1)OCC1NC(C2C(N(C(C21)=O)CC2=CC=C(C=C2)[N+](=O)[O-])=O)C2=CC=C(C(N)=N)C=C2 | InChI=1S/C28H27N5O5.ClH/c29-26(30)20-10-8-19(9-11-20)25-24-23(22(31-25)16-38-15-18-4-2-1-3-5-18)27(34)32(28(24)35)14-17-6-12-21(13-7-17)33(36)37;/h1-13,22-25,31H,14-16H2,(H3,29,30);1H
